US06525202B2
4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluoro-benzaldehyde
The title compound was prepared from 1,4 dioxa-8-azaspiro[4.5]decane and 3,4-difluorobenzaldehyde according to the procedure of Example 56 as an orange oil; 1H NMR (300 MHz, CDCl3) δ 1.88 (t, J=5.7 Hz, 4H), 3.35 (t, J=5.8 Hz, 4H), 4.01 (s, 4H), 6.96 (t, J=7.8 Hz, 1H), 7.47-7.49 (m, 1H), 7.53-7.58 (m, 1H), 9.81 (s, 1H); MS (ES) m/z: 265.8 (MH+).

reactant | 1,4 dioxa-8-azaspiro[4.5]decane | O1CCOC12CCNCC2 | C7H13NO2
reactant | 3,4-difluorobenzaldehyde | FC=1C=C(C=O)C=CC1F | C7H4F2O
product | 4-(1,4-Dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluoro-benzaldehyde | O1CCOC12CCN(CC2)C2=C(C=C(C=O)C=C2)F | C14H16FNO3
